US03984549
0.511 G. of 4-Chloro-2-pyridyl isothiocyanate and 1.8 g. of n-decylisothiocyanate are combined and heated at 85° C. for 20 hours. The temperature is lowered to 75° C. and continued for 8 days. The reaction mixture is cooled, triturated with ether, filtered, washed with water and dried affording 8-chloro 3-(n-decyl) pyrido (1,2-a) 1,3,5-triazine-2,4-dithione m.p. 153°-155° C.

reactant | 4-Chloro-2-pyridyl isothiocyanate | ClC1=CC(=NC=C1)N=C=S | C6H3ClN2S
reactant | n-decylisothiocyanate | C(CCCCCCCCC)N=C=S | C11H21NS
product | 8-chloro 3-(n-decyl) pyrido (1,2-a) 1,3,5-triazine-2,4-dithione | ClC1=CC=2N(C(N(C(N2)=S)CCCCCCCCCC)=S)C=C1 | C17H24ClN3S2
